US04947881
For example, to prepare 1,3-dichloro-1,1,2,2,3-pentafluoropropane, 2,2,3,3-tetrafluoropropanol, tosyl chloride, and water are reacted together to form 2,2,3,3-tetrafluoropropyl p-toluenesulfonate. Then, N-methylpyrrolidone, potassium fluoride, and the 2,2,3,3-tetrafluoropropyl p-toluenesulfonate are reacted together to form 1,1,2,2,3-pentafluoropropane. Then, chlorine and the 1,1,2,2,3-pentafluoropropane are reacted to form 1,1,3-trichloro-1,2,2,3,3-pentafluoropropane. Finally, isopropanol and the 1,1,3-trichloro-1,2,2,3,3-pentafluoropropane are reacted to form 1,3-dichloro-1,1,2,2,3-pentafluoropropane.

reactant | 1,3-dichloro-1,1,2,2,3-pentafluoropropane | ClC(C(C(F)Cl)(F)F)(F)F | C3HCl2F5
reactant | 2,2,3,3-tetrafluoropropanol | FC(CO)(C(F)F)F | C3H4F4O
reactant | tosyl chloride | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | water | O | H2O
product | 2,2,3,3-tetrafluoropropyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC(C(F)F)(F)F)C | C10H10F4O3S
